US07105544B2
N-{5-[1-(3-{[2-(4-CHLOROPHENYL)-2-METHYLPROPANOYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE
Example 110 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.31–8.12 (m, 1H), 7.44–7.15 (m, 5H), 7.12–6.94 (m, 1H), 6.75–6.61 (br, 1H), 6.61–6.46 (br, 1H), 3.35–3.12 (m, 4H), 2.70–2.47 (m, 3H), 2.46–2.35 (m, 2H), 2.35–2.21 (m, 2H), 1.92–1.67 (m, 8H), 1.54 (s, 6H), 1.02 (t, 3H, J=7.2 Hz); ESMS m/e: 502.3 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-{5-[1-(3-{[2-(4-CHLOROPHENYL)-2-METHYLPROPANOYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F)(C)C | C28H37ClFN3O2
